US07196090B2
Cyclopentyl-(5-[(2,6-difluoro-3,5-dimethoxy-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl)-amine
A solution of 25.30 g (assume 0.0523 mol) of (5-[(2,6-difluoro-3,5-dimethoxy-phenylimino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl)-ethyl-amine in 425 mL of anhydrous tetrahydrofuran was cooled to 0° C. using an ice/acetone bath. The cooled mixture was treated dropwise via syringe with 78.50 mL (0.0785 mol) 1 M solution of lithium aluminum hydride in tetrahydrofuran which resulted initially with vigorous bubbling. The resulting mixture continued to stir at 0° C. for 1 hour under nitrogen atmosphere. The ice bath was removed and the reaction mixture was allowed to warm up to room temperature and continued stirring at room temperature overnight. The reaction mixture was cooled to 0° C. using an ice/acetone bath and quenched by the slow addition of 78.50 mL of water, 78.50 mL of 15% sodium hydroxide and 157 mL of water. The salts were filtered over a bed of Celite and removed the tetrahydrofuran in vacuo. The residue was redissolved in dichloromethane and filtered again. The layers were separated and dried the organic layer over sodium sulfate, filtered and evaporated. The crude product was purified using medium-pressure chromatography eluting with a gradient of 2:1 to 1:1 hexanes/ethyl acetate to give 16.34 g (76%) of title compound. MS (APCI) (m+1)/z 411.1.

reactant | (5-[(2,6-difluoro-3,5-dimethoxy-phenylimino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl)-ethyl-amine | 0.0523 mol, 25.30 g | FC1=C(C(=C(C=C1OC)OC)F)N=CC=1C(=NC(=NC1)SC)NCC | C16H18F2N4O2S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 425 mL | O1CCCC1 | C4H8O
product | Cyclopentyl-(5-[(2,6-difluoro-3,5-dimethoxy-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl)-amine | 16.34 g, 76% | C1(CCCC1)NC1=NC(=NC=C1CNC1=C(C(=CC(=C1F)OC)OC)F)SC | C19H24F2N4O2S
